US08053440B2
To a solution of 2-amino-5-nitro-benzamide (680 mg, 3.75 mmol) and 4-[2-(tert-butyidimethylsilanoxy)ethoxy]-3,5-dimethylbenzaldehyde (1.16 g, 3.75 mmol) in N,N-dimethyl acetamide (35 mL), NaHSO3 (736 mg, 4.14 mmol) and p-TSA (71 mg, 0.375 mmol) were added and the reaction mixture was heated at 150° C. for 5 h. The solvent was evaporated under reduced pressure. The residue was diluted with water and the solids were filtered off to give crude product (590 mg, 44%). To a solution of above crude product (490 mg, 1.38 mmol) in DMF (20 mL) and MeOH (20 mL), Pd—C (100 mg, 10%) was added and the reaction mixture was hydrogenated for 4 h at room temperature at 30 psi H2. The reaction mixture was filtered and the solvent was evaporated to give crude product. The crude was purified by column chromatography (silica gel 230-400 mesh; 4% methanol in CH2Cl2 as eluent) to give 6-amino-2-(4-(2-hydroxy ethoxy)-3,5-dimethyl phenyl)-3H-quinazolin-4-one (190 mg, 42% yield). To a solution of 6-amino-2-(4-(2-hydroxy ethoxy)-3,5-dimethyl phenyl)-3H-quinazolin-4-one (95 mg, 0.29 mmol) in pyridine (5 mL), acetic anhydride (108 mg, 0.73 mmol) was added and the mixture was stirred for 16 h at room temperature. The solvent was removed and the solids were dissolved in a mixture of MeOH (10 mL) and THF (10 mL) (compound was partially soluble). Then K2CO3 (100 mg, 0.73 mmol) was added and the reaction mixture was stirred for 3 h at room temperature. The solvent was removed and the crude was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in CH2Cl2 as eluent) to give N-(2-(4-(2-hydroxyethoxy)-3,5-dimethylphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl)acetamide (65 mg, 60%). Selected data: MS (ES) m/z: 368.09; MP>300° C.

reactant | 2-amino-5-nitro-benzamide | 3.75 mmol, 680 mg | NC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H7N3O3
reactant | 4-[2-(tert-butyidimethylsilanoxy)ethoxy]-3,5-dimethylbenzaldehyde | 3.75 mmol, 1.16 g | O([Si](C)(C)C(C)(C)C)CCOC1=C(C=C(C=O)C=C1C)C | C17H28O3Si
reactant | NaHSO3 | 4.14 mmol, 736 mg | OS(=O)[O-].[Na+]
reactant | p-TSA | 0.375 mmol, 71 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethyl acetamide | 35 mL | CN(C(C)=O)C | C4H9NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 6-amino-2-(4-(2-hydroxy ethoxy)-3,5-dimethyl phenyl)-3H-quinazolin-4-one | 190 mg, 42% yield | NC=1C=C2C(NC(=NC2=CC1)C1=CC(=C(C(=C1)C)OCCO)C)=O | C18H19N3O3
